US08809331B2
A mixture of (4-amino-5-methoxy-2-(trifluoromethyl)phenyl)(morpholino)methanone (94 mg, 0.31 mmol), 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine (66 mg, 0.31 mmol) and para-toluene sulfonic acid (59 mg, 0.31 mmol) in dioxane (4 mL) was heated to 100° C. for 2 h. Saturated aqueous sodium bicarbonate solution (10 mL) and DCM (10 mL) were added and the organic phase was passed through a hydrophobic frit. The solvent was removed in vacuo and the residue was purified by reversed phase HPLC to give (5-methoxy-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)-2-(trifluoromethyl)phenyl)(morpholino)methanone (111 mg, 75%) as an off-white solid. LCMS (10 cm_ESCI_Bicarb_MeCN): [M+H]+=480 at 3.32 min. 1H NMR (400 MHz, CDCl3): δ 9.13 (s, 1H), 8.19 (s, 1H), 7.82 (s, 1H), 6.77 (s, 1H), 5.34 (q, J=4.7 Hz, 1H), 3.97 (s, 3H), 3.95-3.88 (m, 1H), 3.83-3.68 (m, 3H), 3.65-3.55 (m, 2H), 3.27-3.21 (m, 2H), 3.13 (d, J=4.7 Hz, 3H).

reactant | (4-amino-5-methoxy-2-(trifluoromethyl)phenyl)(morpholino)methanone | 0.31 mmol, 94 mg | NC1=CC(=C(C=C1OC)C(=O)N1CCOCC1)C(F)(F)F | C13H15F3N2O3
reactant | 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine | 0.31 mmol, 66 mg | ClC1=NC=C(C(=N1)NC)C(F)(F)F | C6H5ClF3N3
reactant | para-toluene sulfonic acid | 0.31 mmol, 59 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (5-methoxy-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)-2-(trifluoromethyl)phenyl)(morpholino)methanone | 111 mg, 75% | COC=1C(=CC(=C(C1)C(=O)N1CCOCC1)C(F)(F)F)NC1=NC=C(C(=N1)NC)C(F)(F)F | C19H19F6N5O3
